US06255494B1
Preparation of 2-(benzyloxymethyl)-7-hydroxybenzimidazole
A mixture of the 2,3-diaminophenol (5 g, 40.3 mmol, 1 eq) and benzyloxyacetic acid (5.6 g, 48.3 mmol, 1.2 eq) in 40 ml of a 10% aqueous solution of sodium bicarbonate was stirred and refluxed at 140° C. for one hour. The mixture was allowed to cool down to room temperature. Ethyl acetate was poured into the mixture. The organic fraction was extracted with ethyl acetate, washed with water, and then dried over sodium sulfate. The solvents were removed in vacuo. The crude product was further purified by flash chromatography to yield 6.87 grams (67% yield) of the desired title product.

reactant | 2,3-diaminophenol | 40.3 mmol, 5 g, 1 eq | NC1=C(C=CC=C1N)O | C6H8N2O
reactant | benzyloxyacetic acid | 48.3 mmol, 5.6 g, 1.2 eq | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(benzyloxymethyl)-7-hydroxybenzimidazole | 6.87 grams, 67% yield | C(C1=CC=CC=C1)OCC=1NC2=C(N1)C(=CC=C2)O | C15H14N2O2
